US07157604B2
A solution of 7-amino-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one (1.36 g, 4.42 mmol) in anhydrous CH2Cl2 (13 mL) was cooled in an ice bath, placed under a nitrogen atmosphere, treated with N-bromosuccinimide (0.787 g, 4.42 mmol) and stirred at 0–5° C. for one hour. The reaction mixture was filtered through a pad of silica gel and the pad was washed with EtOAc. The filtrate and washings were evaporated under vacuum. The residue was purified by flash chromatography on a Biotage 40M column using 10:1 hexanes-EtOAc as eluting solvent. The product containing fractions were evaporated under vacuum to afford 7-amino-4-bromo-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one (1.08 g, 63%) as a yellow solid.

reactant | 7-amino-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 4.42 mmol, 1.36 g | NC1=C(C=C2C3=CC(CCC3(CC2=C1Cl)CCCC)=O)F | C17H19ClFNO
reactant | N-bromosuccinimide | 4.42 mmol, 0.787 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 13 mL | C(Cl)Cl | CH2Cl2
product | 7-amino-4-bromo-9a-butyl-8-chloro-6-fluoro-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 1.08 g, 63% | NC1=C(C=C2C3=C(C(CCC3(CC2=C1Cl)CCCC)=O)Br)F | C17H18BrClFNO
